US04405530
F. 2-Fluoromethyl-2-phthalimido-6-methanesulfonyloxy-hexanenitrile
A solution of 2-fluoromethyl-2-phthalimido-6-hydroxy-hexanenitrile (9.0 g, 31 mmol) and pyridine (60 ml) in dry dichloromethane (150 ml) is cooled in an ice bath, and methanesulfonyl chloride (3.6 g, 31 mmol), diluted with a small amount of dichloromethane, is added slowly with efficient stirring. Stirring is continued at room temperature overnight. The reaction mixture is washed with 2 N HCl and dried. Evaporation of solvent gives the title compound as a yellow oil (10.84 g).

reactant | 2-fluoromethyl-2-phthalimido-6-hydroxy-hexanenitrile | 31 mmol, 9.0 g | FCC(C#N)(CCCCO)N1C(C=2C(C1=O)=CC=CC2)=O | C15H15FN2O3
reactant | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 31 mmol, 3.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-Fluoromethyl-2-phthalimido-6-methanesulfonyloxy-hexanenitrile | 10.84 g | FCC(C#N)(CCCCOS(=O)(=O)C)N1C(C=2C(C1=O)=CC=CC2)=O | C16H17FN2O5S
